US07700641B2
Synthesis of 1′-butylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.21, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, and 1-bromobutane to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (62%) as a white solid: mp 119-120° C.; MS (ES+) m/z 338.3 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
reactant | 1-bromobutane | BrCCCC | C4H9Br
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′-butylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | C(CCC)N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C20H19NO4
